### PR TITLE
Feat(Cryptography): Signed Barrett reduction algorithm

### PR DESCRIPTION
**Pull request by atrieu**
This adds a formalisation of the signed variant of the Barrett reduction algorithm which is used in recent crypto schemes such as ML-KEM and ML-DSA.

### CODE REVIEW

File: Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean [hunk 1]
```diff
@@ -0,0 +1,199 @@
...
+  |x.bmod m| ≤ m / 2 := by
+  rw [abs_le]; apply And.intro
+  · apply Int.le_bmod Hm
+  · transitivity
+    · apply Int.bmod_le Hm
+    · omega
+
+lemma bmod_eq' (x : ℤ) (m : ℕ) :
+  x.bmod m = x - m * (round (x / (m: ℚ))) := by
+  rw [round_eq, Int.bmod]
```
Comment (eric-wieser) [inline Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean:74]: Lean's indent style is
```suggestion
lemma bmod_eq' (x : ℤ) (m : ℕ) :
    x.bmod m = x - m * (round (x / (m: ℚ))) := by
  rw [round_eq, Int.bmod]
```
please apply this throughout

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean [hunk 2]
```diff
@@ -0,0 +1,301 @@
...
+def is_approx (δ : ℚ) (α : ℚ → ℤ) : Prop :=
+  ∀ (x: ℚ), |(x - α x)| ≤ δ
+
+lemma round_is_approx : is_approx (1/2) round := by
+  intro x; apply abs_sub_round
+
+def round_to_even (x : ℚ) : ℤ :=
+  2 * ⌊(x / 2)⌉
+
+def mod_approx (α : ℚ → ℤ) (x : ℤ) (N : ℕ) : ℤ := x - ↑N * (α (x/N))
```
Comment (eric-wieser) [inline Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: Please look at the lean naming convention; these should be 
```suggestion
def IsApprox (δ : ℚ) (α : ℚ → ℤ) : Prop :=
  ∀ (x: ℚ), |(x - α x)| ≤ δ

lemma round_isApprox : IsApprox (1/2) round := by
  intro x; apply abs_sub_round

def roundToEven (x : ℚ) : ℤ :=
  2 * ⌊(x / 2)⌉

def modApprox (α : ℚ → ℤ) (x : ℤ) (N : ℕ) : ℤ := x - ↑N * (α (x/N))
``
etc: `def`s should never contain `_` in their name, and should be capitalized if they are `Prop`s

File: Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean (hunk 1 above)
Comment (atrieu) [reply Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean:74]: Thanks, fixed by [82f80d8](https://github.com/leanprover/cslib/pull/523/commits/82f80d8ef71a6a1f69daaf605b801e9a3de5f6f5)

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean (hunk 2 above)
Comment (atrieu) [reply Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: Thanks, fixed by [82f80d8](https://github.com/leanprover/cslib/pull/523/commits/82f80d8ef71a6a1f69daaf605b801e9a3de5f6f5)

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean [hunk 3]
```diff
@@ -0,0 +1,298 @@
...
+  nth_rw 2 [← mul_one a]
+  rw [← barrettMul_spec a 1 M R k q] <;> try assumption
+  · rw [barrettReduce, barrettMul]
+    rw [mul_one]; simp
+  · simp only [Int.cast_one, one_mul, one_div]; simp at Hk; assumption
+  · simp only [abs_one]; refine one_le_pow₀ (by simp)
+
+end Cslib.Crypto.Algorithms.BarrettReduction.Signed
+
+section MLKEMExample
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: This is polluting the namespace, but I think moving it to CslibTests/ should be sufficient to avoid. It probably belongs there anyways.

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean [hunk 4]
```diff
@@ -0,0 +1,298 @@
...
+-/
+
+namespace Cslib.Crypto.Algorithms.BarrettReduction.Signed
+
+notation "⌊" x "⌉" => round (x : ℚ)
+
+def IsApprox (δ : ℚ) (α : ℚ → ℤ) : Prop :=
+  ∀ (x: ℚ), |(x - α x)| ≤ δ
+
+lemma round_isApprox : IsApprox (1/2) round := by
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: This and IsApprox are dead code, but I'm guessing you plan to use them later?

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean [hunk 5]
```diff
@@ -0,0 +1,298 @@
...
+
+module
+
+public import Cslib.Init
+public import Mathlib.Data.Nat.Log
+public import Mathlib.Data.Rat.Init
+public import Mathlib.Data.Rat.Floor
+public import Mathlib.Algebra.Order.Field.Rat
+public import Mathlib.Algebra.Order.Round
+import Mathlib.Tactic
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: Try not to import this directly, Cslib.Init should have what you need and import directly otherwise.

File: Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean [hunk 6]
```diff
@@ -0,0 +1,199 @@
...
+module
+
+public import Cslib.Init
+public import Mathlib.Data.Nat.Log
+public import Mathlib.Algebra.Order.Round
+public import Mathlib.Data.Rat.Floor
+public import Mathlib.Algebra.Order.Floor.Defs
+public import Mathlib.Data.Int.DivMod
+import Mathlib.Tactic
+
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean:13]: This file should have a note to upstream most of its contents to mathlib I think.

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean (hunk 3 above)
Comment (atrieu) [reply Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: Thanks, moved to `CslibTests/`

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean (hunk 4 above)
Comment (atrieu) [reply Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: Oops, this is leftover from when I was trying to prove a generic version of the reduction modular wrt the chosen approximation (round half up provides signed reduction, while floor provides unsigned reduction). I ended up proving this version which provides better bounds iirc.

I removed it for now.

File: Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean (hunk 5 above)
Comment (atrieu) [reply Cslib/Crypto/Algorithms/BarrettReduction/Signed.lean]: Done

File: Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean (hunk 6 above)
Comment (atrieu) [reply Cslib/Crypto/Algorithms/BarrettReduction/Aux.lean:13]: I added a note, thanks
